US06743608B2
n-Decyl (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate/Ethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate
Ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (9 mg) was added to a solution containing: Immobilised Mucor miehei lipase immobilised on accurel EP 100 load :187 klu/g (18 mg), n-decanol 14 μl, heptane 0.9 ml and 4 Å molecular sieves. The reaction mixture was shaken at room temperature and analysed at different times (maximum 7 h). The reaction mixtures were analysed by the gradient HPLC method 2 and by the chiral HPLC method 4.

reactant | Ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | 9 mg | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | n-decanol | 14 μl | C(CCCCCCCCC)O | C10H22O
solvent | heptane | 0.9 ml | CCCCCCC | C7H16
product | n-Decyl (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate Ethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)OCCCCCCCCCC)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OCC)CC1=CC=C(C=C1)O | InChI=1S/C21H34O4.C13H18O4/c1-3-5-6-7-8-9-10-11-16-25-21(23)20(24-4-2)17-18-12-14-19(22)15-13-18;1-3-16-12(13(15)17-4-2)9-10-5-7-11(14)8-6-10/h12-15,20,22H,3-11,16-17H2,1-2H3;5-8,12,14H,3-4,9H2,1-2H3/t20-;12-/m01/s1
